* The models here are just modifications from a general 7905 model.
* I only changed one resistor to achieve the desired output voltage.
* I don't know about the quality of the original model. H.S.
*
* Add the end of this file is the original uploaded LM7905 model from 
* "regulators.lib" uploaded by "renan_poa". It delivers -5.32V.
* I renamed this LM7905 to LM7905X to avoid equal model names in this file.
*
*
* This is a copy of the LM7905 from regulators.lib.
* R10 changed from 1k to 10  
*
.SUBCKT LM7905  1    2    3            
DD4           4   5   D_6V3_0 
DD2           6   2   D_3V9_0 
DD1           7   2   D_4V7_0 
DD3           8   3   D_6V3_0 
C2            9  10  5P
C1            2   9  15P
QTU15         10   9   3   Q_PNP_0 1.000
R17          11  12  4.2K
QTU22          3  10  13   Q_NPN_0 3.000
R18           8   5  15.65K
R20          13  14  1K
R19           4  14  75
QTU31         12  11   4   Q_NPN_1 1.000
R16          15   1  160
R24          16   1  1.8K
C3           17   1  10P
QTU30         18  12  15   Q_NPN_1 1.000
QTU29         10  16   1   Q_NPN_1 1.000
R15          19   1  400
QTU28         10  20  19   Q_NPN_1 1.000
R14          21   1  200
QTU27         17  20  21   Q_NPN_1 1.000
R11          22  23  1K
R10          24  25  10
QTU19         18  27  26   Q_NPN_1 1.000
R9            2  18  7.1K
QTU8          16  18   2   Q_PNP_0 1.000
QTU7          28  18   2   Q_PNP_0 1.000
QTU6          18  18   2   Q_PNP_0 1.000
QTU5          11  29   2   Q_PNP_0 1.000
QTU4          20  29   2   Q_PNP_0 1.000
QTU3           1  29   2   Q_PNP_0 1.000
QTU2           1  29   2   Q_PNP_0 1.000
R13          28   1  400
R12          30   1  400
QTU18         29  29  31   Q_NPN_1 1.000
QTU1          29  29   2   Q_PNP_0 1.000
R6           31  32  6.5K
R7           32  27  5.6K
R8           27  26  950
QTU10         33   6  26   Q_PNP_0 1.000
QTU17         34  35  33   Q_PNP_0 1.000
R5           36   1  2K
QTU24         34  34  36   Q_NPN_1 1.000
R1           37   6  6.3K
R2           37  38  670
R3           38  35  550
QTU9          38  35   6   Q_PNP_0 1.000
R4           39   1  2K
QTU23         35  34  39   Q_NPN_1 1.000
QTU16          1   7  35   Q_PNP_0 1.000
JT1           7   1   1  J_2N3458_N 
QTU14          3  17  23   Q_PNP_0 1.000
QTU13         17  17  23   Q_PNP_0 1.000
QTU12         17  17  25   Q_PNP_0 1.000
QTU11          9  17  25   Q_PNP_0 1.000
QTU32          3  13  14   Q_NPN_2 10.000
QTU26          9  20  28   Q_NPN_1 1.000
QTU25         20  20  30   Q_NPN_1 1.000
QTU21          2  40  22   Q_NPN_1 1.000
QTU20          2  37  24   Q_NPN_1 1.000
R21           2  40  4.29K
R22          40   3  500
R23          14   1  500M

.MODEL J_2N3458_N NJF( VTO=-3.05 BETA=699.53U LAMBDA=6M RD=1 RS=1 
+      CGD=2.81P CGS=2.91P M=227.1M PB=500M IS=114.41F 
+      VTOTC=-2.5M BETATCE=-500M KF=0 AF=1 )
.MODEL D_6V3_0  D( IS=10F N=1.24 BV=6.3 IBV=1M CJ0 = 1P TT = 10p )
.MODEL D_3V9_0  D( IS=10F N=1.24 BV=3.9 IBV=1M CJ0 = 1P TT = 10p )
.MODEL D_4V7_0  D( IS=10F N=1.24 BV=4.7 IBV=1M CJ0 = 1P TT = 10p )
.MODEL Q_PNP_0  PNP( IS=10F NF=1.04 NR=1.04 BF=50 CJC=1P CJE=2P
+      TF=10P TR=1N VAF=45)
.MODEL Q_NPN_0  NPN( IS=10F NF=1.04 NR=1.04 BF=100 CJC=1P CJE=2P
+       TF=10P TR=1N VAF=90)
.MODEL Q_NPN_1  NPN( IS=10F NF=1.04 NR=1.04 BF=100 CJC=1P CJE=2P
+       TF=10P TR=1N VAF=90)
.MODEL Q_NPN_2  NPN( IS=10F NF=1.04 NR=1.04 BF=100 CJC=1P CJE=2P
+       TF=10P TR=1N VAF=90)
.ENDS LM7905




.SUBCKT LM79XX Input Output Ground PARAMS:
+       Av_feedback=1660, R1_Value=4615,
+       Rbg_Tc1=8.13E-5, Rbg_Tc2=0.0,
+       Rout_Value=0.01, Rreg_Value=9.1k ;1.2k
*
* SERIES 3-TERMINAL NEGATIVE REGULATOR
*
* Note: This regulator is based on the LM79XX series of
*       regulators (also the LM120 and LM320).  The
*       LM79XX regulators are unstable and will
*       oscillate unless a 1 uFarad solid tantalum
*       capacitor is placed on the output with an ESR
*       betweed .5 and 1.5.  This model is stable without
*       a capacitor on the output.  When performing
*       simulations a 1 uFarad capacitor should still be
*       placed on the output.  However, it it not necessary
*       to include a resistor in series with this capacitor
*       to model the ESR of the capacitor.  See the
*       comments and circuit description of the x_LM78XX
*       regulator for more information on this model.
*
* Band-gap voltage source:
*
Vbg 100 0 DC -7.4V
Sbg 100 101 Ground Input  Sbg1
Rbg 101 0 Rbg1 1
.MODEL Rbg1 RES (Tc1={Rbg_Tc1},Tc2={Rbg_Tc2})
Ebg 102 0 Input Ground  1
Rreg 102 101 {Rreg_Value}
.MODEL Sbg1 VSWITCH (Ron=1 Roff=1MEG Von=3.7 Voff=3)
*
* Feedback stage
*
Rfb 9 8 1MEG
Cfb 8 Ground 265PF
* Eopamp 105 0 VALUE={2250*v(101,0)+Av_feedback*v(Ground,8)}
Vgainf 200 0 {Av_feedback}
Rgainf 200 0 1
Eopamp 105 0 POLY(3),(101,0),(Ground,8),(200,0) 0 2250 0 0 0 0 0 0 1
Ro 105 106 1k
D1 108 106 Dlim
D2 106 107 Dlim
.MODEL Dlim D (Vj=0.7)
Vl1 108 102 DC 1
Vl2 0 107 DC 1
*
* Quiescent current modelling
*
Gq (Ground,Input),(9,Input) 9.0E-7
R1 9 Ground {R1_Value} TC=0.001
Fl (Ground,0) Vmon 3.0E-4
*
* Output Stage
*
Q1 9 5 6 Npn1
Q2 9 6 7 Npn1 10
.MODEL Npn1 NPN (Bf=50 Is=1E-14)
* Efb 4 Ground VALUE={v(Input,Ground)+v(0,106)}
Efb 4 Ground POLY(2)  (Input,Ground) (0,106) 0 1 1
Rb 4 5 1k TC=0.003
Re 6 7 2k
Rsc 7 Input 0.13 TC=1.136E-3,-7.806E-6
Rout 9 Imon {Rout_Value}
Vmon Imon Output DC 0.0
*
* Current Limit
*
Qcl1 54 52 53 Npn1
Qcl3 Input 54 5 Pnp1
.MODEL Pnp1 PNP (Bf=250 Is=1E-14)
Rcl3 5 54 1.8k
Qcl2 52 52 51 Npn1
Veset 53 Input DC 0.3v
Ibias Input 52 DC 300u
Rcl1 50 51 20k
Rcl2 51 7 115
Dz1 50 9 Dz
.MODEL Dz D (Is=0.05p Rs=3 Bv=7.11 Ibv=0.05u)
.ENDS


.SUBCKT LM7912  INPUT  GROUND OUTPUT
x1 Input Output Ground  LM79XX PARAMS:
+     Av_feedback=694, R1_Value=11076,
+     Rbg_Tc1=-9.50E-7, Rbg_Tc2=-6.53E-7,
+     Rout_Value=0.01, Rreg_Value=9.1k
.ENDS

* This is a copy of the LM7905 from regulators.lib.
* R22 changed from 500 -> 10.63k
*
.SUBCKT LM7915  1    2    3            

DD4           4   5   D_6V3_0 
DD2           6   2   D_3V9_0 
DD1           7   2   D_4V7_0 
DD3           8   3   D_6V3_0 
C2            9  10  5P
C1            2   9  15P
QTU15         10   9   3   Q_PNP_0 1.000
R17          11  12  4.2K
QTU22          3  10  13   Q_NPN_0 3.000
R18           8   5  15.65K
R20          13  14  1K
R19           4  14  75
QTU31         12  11   4   Q_NPN_1 1.000
R16          15   1  160
R24          16   1  1.8k
C3           17   1  10P
QTU30         18  12  15   Q_NPN_1 1.000
QTU29         10  16   1   Q_NPN_1 1.000
R15          19   1  400
QTU28         10  20  19   Q_NPN_1 1.000
R14          21   1  200
QTU27         17  20  21   Q_NPN_1 1.000
R11          22  23  1K
R10          24  25  1K
QTU19         18  27  26   Q_NPN_1 1.000
R9            2  18  7.1K
QTU8          16  18   2   Q_PNP_0 1.000
QTU7          28  18   2   Q_PNP_0 1.000
QTU6          18  18   2   Q_PNP_0 1.000
QTU5          11  29   2   Q_PNP_0 1.000
QTU4          20  29   2   Q_PNP_0 1.000
QTU3           1  29   2   Q_PNP_0 1.000
QTU2           1  29   2   Q_PNP_0 1.000
R13          28   1  400
R12          30   1  400
QTU18         29  29  31   Q_NPN_1 1.000
QTU1          29  29   2   Q_PNP_0 1.000
R6           31  32  6.5K
R7           32  27  5.6K
R8           27  26  950
QTU10         33   6  26   Q_PNP_0 1.000
QTU17         34  35  33   Q_PNP_0 1.000
R5           36   1  2K
QTU24         34  34  36   Q_NPN_1 1.000
R1           37   6  6.3K
R2           37  38  670
R3           38  35  550
QTU9          38  35   6   Q_PNP_0 1.000
R4           39   1  2K
QTU23         35  34  39   Q_NPN_1 1.000
QTU16          1   7  35   Q_PNP_0 1.000
JT1           7   1   1  J_2N3458_N 
QTU14          3  17  23   Q_PNP_0 1.000
QTU13         17  17  23   Q_PNP_0 1.000
QTU12         17  17  25   Q_PNP_0 1.000
QTU11          9  17  25   Q_PNP_0 1.000
QTU32          3  13  14   Q_NPN_2 10.000
QTU26          9  20  28   Q_NPN_1 1.000
QTU25         20  20  30   Q_NPN_1 1.000
QTU21          2  40  22   Q_NPN_1 1.000
QTU20          2  37  24   Q_NPN_1 1.000
R21           2  40  4.29K
R22          40   3  10.66K
R23          14   1  500M

.MODEL J_2N3458_N NJF( VTO=-3.05 BETA=699.53U LAMBDA=6M RD=1 RS=1 
+      CGD=2.81P CGS=2.91P M=227.1M PB=500M IS=114.41F 
+      VTOTC=-2.5M BETATCE=-500M KF=0 AF=1 )
.MODEL D_6V3_0  D( IS=10F N=1.24 BV=6.3 IBV=1M CJ0 = 1P TT = 10p )
.MODEL D_3V9_0  D( IS=10F N=1.24 BV=3.9 IBV=1M CJ0 = 1P TT = 10p )
.MODEL D_4V7_0  D( IS=10F N=1.24 BV=4.7 IBV=1M CJ0 = 1P TT = 10p )
.MODEL Q_PNP_0  PNP( IS=10F NF=1.04 NR=1.04 BF=50 CJC=1P CJE=2P
+      TF=10P TR=1N VAF=45)
.MODEL Q_NPN_0  NPN( IS=10F NF=1.04 NR=1.04 BF=100 CJC=1P CJE=2P
+       TF=10P TR=1N VAF=90)
.MODEL Q_NPN_1  NPN( IS=10F NF=1.04 NR=1.04 BF=100 CJC=1P CJE=2P
+       TF=10P TR=1N VAF=90)
.MODEL Q_NPN_2  NPN( IS=10F NF=1.04 NR=1.04 BF=100 CJC=1P CJE=2P
+       TF=10P TR=1N VAF=90)
.ENDS LM7915


